data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_234724_0,[C:1]([C:2]([H:14])([H:15])[H:16])([N:3]([C:4]([N:5]([H:12])[H:13])=[O:8])[H:11])([O:6][H:9])[O:7][H:10]>>[C:1]([C:2]([H:14])([H:15])[H:16])([N:3]([C:4]([N:5]([H:12])[H:13])([O:7][H:10])[O:8][H:9])[H:11])=[O:6],45.10030750002457
MR_288340_0,[C:1](/[C:4](=[C:3]([C:2](/[O:6][H:9])=[N:7]\[O:5][H:8])\[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@:4]1([H:11])[C:3]([H:10])=[C:2]([O:6][H:9])[N:7]1[O:5][H:8])([H:12])([H:13])[H:14],44.2029824999716
MR_404853_1,[C:1]1([C:6]([N:5]([C:3]([H:12])([H:13])[H:17])[C:4]([H:14])([H:15])[H:16])=[C:7]([H:18])[H:19])([H:9])[C:2]([H:10])([H:11])[O:8]1>>[C:1]1([C:6]([N:5]([C:3]([H:12])([H:13])[H:17])[C:4]([H:14])([H:15])[H:16])=[C:7]([H:18])[H:19])([H:9])[C:2]([H:10])([H:11])[O:8]1,54.73494249999021
MR_116102_2,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([N:3]([N:5]([H:10])[H:11])[H:8])=[O:7])([N:6]([H:12])[H:13])[H:9]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[N:3]/[N:5]([H:8])[H:10])[O:7][H:11])([N:6]([H:12])[H:13])[H:9],57.46833249997323
MR_136889_0,[C:1](/[C:2]([N:3]([H:9])[H:10])=[N:8]/[H:11])(=[C:5]([H:13])[H:14])[O:7][C:4](=[C:6]([H:15])[H:16])[H:12]>>[C:1](/[C:2]([N:3]([H:9])[H:10])=[N:8]/[H:11])([C:5]([C:4](=[C:6]([H:15])[H:16])[H:12])([H:13])[H:14])=[O:7],72.6826975000121
MR_163935_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[C:4]([H:10])[H:11])[O:5][O:6][H:7])([H:8])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([O:5][C:3](=[C:4]([H:10])[H:11])[O:6][H:7])([H:8])[H:9],72.61429999997077
MR_294518_0,[C:1]1([C:4]([H:17])([H:19])[H:20])([C:5]([H:18])([H:21])[H:22])[C:2]([H:12])([H:13])[N:9]=[C:7]([N:8]([H:10])[H:11])[N:6]1[C:3]([H:14])([H:15])[H:16]>>[C:1]1([C:4]([H:17])([H:19])[H:20])([C:5]([H:18])([H:21])[H:22])[C:2]([H:12])([H:13])[N:9]1/[C:7](=[N:6]/[C:3]([H:14])([H:15])[H:16])[N:8]([H:10])[H:11],65.59194750000856
MR_105251_0,[C:1](=[C:5]([C:2]([H:12])([H:13])[H:14])[C:6]([C:3]([H:15])([H:16])[H:20])([C:4]([H:17])([H:18])[H:19])[C:7](=[O:8])[H:9])([H:10])[H:11]>>[C:1]([C:5]([C:2]([H:12])([H:13])[H:14])=[C:6]([C:3]([H:15])([H:16])[H:20])[C:4]([H:17])([H:18])[H:19])([C:7](=[O:8])[H:9])([H:10])[H:11],55.68058499999253
MR_159603_0,[C:1]([C:4]([H:19])([H:20])[H:21])([O:8][C:5](=[C:6]([C:2]([H:13])([H:14])[H:17])[C:3]([H:15])([H:16])[H:18])[N:7]([H:9])[H:10])([H:11])[H:12]>>[C:1]([C:4]([H:19])([H:20])[H:21])([C:6]([C:2]([H:13])([H:14])[H:17])([C:3]([H:15])([H:16])[H:18])[C:5]([N:7]([H:9])[H:10])=[O:8])([H:11])[H:12],58.87330499999294
MR_84118_1,[C:1](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:6]/[H:8])(/[C:5]([C:2]([H:12])([H:13])[H:14])=[N:7]/[H:9])([H:10])[H:11]>>[C:1](=[C:4]([C:3]([H:15])([H:16])[H:17])[N:6](/[C:5]([C:2]([H:12])([H:13])[H:14])=[N:7]/[H:9])[H:8])([H:10])[H:11],61.53327750001864
MR_212991_0,[C:1](=[O:2])([N:3]([O:4][H:5])[H:7])[H:6]>>[C:1]([O:2][H:5])([N:3]=[O:4])([H:6])[H:7],58.87204999999611
MR_660551_1,[C:1]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:7])([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[N:6]([H:12])[H:13]>>[C:1](\[C:3]([C:2]([H:14])([H:15])[H:16])([N:6]([H:12])[H:13])[O:7][H:8])(=[N:4]/[H:9])[N:5]([H:10])[H:11],29.15616000000909
MR_510040_1,[N:1](\[O:5][H:8])=[N:6]/[C:4]1([H:10])[N:2]([H:9])[C:3]1=[O:7]>>[n:1]1([O:5][H:8])[c:3](=[O:7])[n:2]([H:9])[c:4]([H:10])[n:6]1,22.938890000011725
MR_680741_2,[C:1]([C:2]([C:5]([C:4](=[O:8])[H:13])([O:9][H:10])[H:14])([O:7][H:11])[H:12])([C:3]([H:15])([H:16])[H:17])=[O:6]>>[C:1]([C:2]([C:5](=[O:9])[H:14])([O:7][H:11])[H:12])([C:3]([H:15])([H:16])[H:17])([C:4](=[O:8])[H:13])[O:6][H:10],58.30478999996586
MR_590628_0,[C:1]1([N:3]([H:9])[H:10])([H:8])[N:2]([H:7])[O:5][C:4]([H:11])=[N:6]1>>[C:1](=[N:3]/[H:10])(\[N:6]=[C:4](/[O:5][N:2]([H:7])[H:9])[H:11])[H:8],32.338212500000765
MR_102704_0,[C:1]([N:5][C:3]([N:2]([O:4][H:6])[H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:5](/[C:3](=[N:2]\[O:4][H:6])[H:8])[H:7])([H:9])([H:10])[H:11],50.14101500003193
MR_216718_0,[N:1](/[C:2]([N:5]([H:12])[H:13])=[N:6]/[N:4]([H:10])[H:11])([N:3]([H:8])[H:9])[H:7]>>[N:1](=[C:2](\[N:5]([H:12])[H:13])[N:6]([N:3]([H:8])[H:9])[N:4]([H:10])[H:11])\[H:7],71.06625750002692
MR_58419_0,[C:1]1([H:11])([H:12])/[C:3](=[N:7]\[H:10])[N:2]([N:4]([H:8])[H:9])[N:6]=[C:5]1[H:13]>>[C:1]1([H:11])([H:12])/[C:3](=[N:7]\[H:10])[C@:5]1(/[N:6]=[N:2]\[N:4]([H:8])[H:9])[H:13],71.96169999997764
MR_450796_2,[C:1]([C:3]([C:4]([C:5]([C:2]([O:8][H:10])([H:14])[H:15])([N:9]([H:11])[H:13])[H:18])=[C:6]([H:19])[H:20])([H:16])[H:17])(=[O:7])[H:12]>>[C:1]([C:2]([O:8][H:10])([H:14])[H:15])([C:3]([C:4](/[C:5](=[N:9]/[H:11])[H:18])=[C:6]([H:19])[H:20])([H:16])[H:17])([O:7][H:13])[H:12],55.13654250001068
MR_117021_1,[N:1]([O:2][H:5])([N:3]=[O:4])[H:6]>>[N:1](\[O:2][H:5])=[N:3]/[O:4][H:6],38.21475000000234
MR_46608_0,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([C:2]([N:5]([H:10])[H:11])([H:12])[H:13])=[O:7])([O:6][H:8])[H:9]>>[C@:1]([C:2]([N:5]([H:10])[H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4](=[O:7])[H:9])[O:6][H:8],58.89589499997157
